data/specific_train_final.csv
"[H:20][CH:21](CC)C1=CC=CC=C1.[OH:10]>>[H:20][OH:10].CC[CH:21]C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:7][C:6](=[O:8])[CH:5]([C:4]([CH3:3])[O:11][OH:12])[O:9][OH:10].[CH2:1]=[O:2]>>[H:7][C:6](=[O:8])[CH:5]([C:4](=[O:11])[CH3:3])[O:9][OH:10].[CH2:1]=[O:2].[OH:12] 4-4,11; 11,12-4,11; 11,12-12",Room Temperature,Propagation,retroaddition
"[C:10](Cl)(Cl)Cl.[O:20][O]>>[C:10]([O:20][O])(Cl)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C/C(=C/C(=O)C)/C1C(O1)(C)[C:10]=O.[O:20][O]>>C/C(=C/C(=O)C)/C1C(O1)(C)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(O[O:20])(Cl)(Cl)Cl.[N+](=O)([O-])[O:10]>>C(O[O:20][O:10][N+](=O)[O-])(Cl)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC2(C(C(C1[O:20])(OO2)C)O)C.[N+:10](=O)[O-]>>CC1=CC2(C(C(C1[O:20][N+:10](=O)[O-])(OO2)C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(=O)[CH:10]C(C1C(O1)C=O)O.[O:20][O]>>CCC(=O)[CH:10](C(C1C(O1)C=O)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"c1ccccc1C(CO)[O][O:10].[O:20][N+]([O-])=O>>c1ccccc1C(CO)[O][O:10][O:20][N+]([O-])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C[C:10](C2(C(C1OO2)O[N+](=O)[O-])C)O.[O:20][O]>>CC1=C[C:10](C2(C(C1OO2)O[N+](=O)[O-])C)(O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][O:2][CH2:3][C:4]([CH3:13])([CH:5]([CH2:8][O:9][O:10][H:11])[O:6][H:7])[O:12]>>[H:1][O:2][CH2:3][C:4](=[O:12])[CH3:13].[H:7][O:6][CH:5][CH2:8][O:9][O:10][H:11] 12-12,4; 5,4-4,12; 5,4-5",Room Temperature,Propagation,retroaddition
"CCC1(C=C[CH:21]=[CH:20]C1O)O[O:10]>>CCC12C=C[CH:21][CH:20](C1O)[O:10]O2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(CCO)O[O:20].[N+](=O)([O-])[O:10]>>CC(CCO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:12][O:11][CH:10]([CH2:13][O:14][O:15][H:16])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9].[H:17][O:18][O:19]>>[H:12][O:11][CH:10]([CH2:13][O:14][O:15][H:16])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][H:17].[O:18][O:19] 9-9,17; 18,17-9,17; 18,17-18",Room Temperature,Propagation,abstraction
"[H:8][C:7](=[CH2:9])[C:4]([CH3:10])([CH2:5][OH:6])[O:3][O:2][H:1].[H:12][O:11].[O:13][O:14]>>[H:8][C:7]([CH2:9][O:11][H:12])[C:4]([CH3:10])([CH2:5][OH:6])[O:3][O:2][H:1].[O:13][O:14] 7,9-11,9; 7,9-7; 11-9,11",Room Temperature,Propagation,addition
"CC(CO)(C(CO)O[N+](=O)[O-])O[O:20].[N:10]=O>>CC(CO)(C(CO)O[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=CC(C)=C1C(C)OO[O:20][N+:10]([O-])=O>>C1=CC=CC(C)=C1C(C)OO[O:20].[N+:10]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[H:14][O:13][O:12].[CH3:1][CH2:2][CH2:3][CH2:4][O:5][CH:6]([CH:9]([CH3:11])[OH:10])[O:7][O:8]>>[H:14][O:13][O:12][O:8][O:7][CH:6]([CH:9]([CH3:11])[OH:10])[O:5][CH2:4][CH2:3][CH2:2][CH3:1] 8-12,8; 12-12,8",Room Temperature,Termination,recombine
"CC[CH:10]CC(=O)C.[O:20][O]>>CC[CH:10](CC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C=O)O[N+](=O)[O-])O[O:20].[N:10]=O>>CC(C(C=O)O[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:20](CO)([CH:21](CO)O[N+](=O)[O-])[O:10]>>C[C:20](=[O:10])CO.C([CH:21]O[N+](=O)[O-])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CC1(C2CC1C(C(C2)O)(C)O[O:10])C>>[H:20][O:10]OC1(C2CC(C2(C)C)CC1O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1(C=CC2C(C1(OO2)C)O)O[O:10].[N:20]=[O]>>CCC1(C=CC2C(C1(OO2)C)O)O[O:10][N:20]=[O] 10-10,20; 20-10,20",Room Temperature,Termination,recombine
"CC(=O)C[CH:10]CO.[O:20][O]>>CC(=O)C[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:10]1C=CC(=CC1O)C.[O:20][O]>>CC[C:10]1(C=CC(=CC1O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCOO[O:20][N+:21](=O)[O-]>>CCCCCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:9][O:8][O:7][CH:4]([CH2:5][OH:6])[C:2]([CH3:1])([CH2:10][O:11][O:12])[OH:3].[N:13]=[O:14]>>[H:9][O:8][O:7][CH:4]([CH2:5][OH:6])[C:2]([CH3:1])([CH2:10][O:11][O:12][N:13]=[O:14])[OH:3] 13-12,13;12-12,13",Room Temperature,Termination,recombine
"CCCCCCO[O:20].[N+](=O)([O-])[O:10]>>CCCCCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC([CH:10]C)O[N+](=O)[O-].[O:20][O]>>CCCC([CH:10](C)[O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][O:2][CH2:3][CH:4]([C:7]([CH3:13])([CH:8]=[O:9])[O:10][O:11][H:12])[O:5][H:6].[He]>>[He].[H:12][O:11].[H:1][O:2][CH2:3][CH:4]([C:7]([CH3:13])([CH:8]=[O:9])[O:10])[O:5][H:6] 10,11-10; 10,11-11",Light,Initiation,homolyze
